US08242260B2
Two separate reaction vials were each charged with 3-(4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile (I-1c, ˜200 mg, 0.43 mmol), a solution of 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.2 M in dioxane, 8 mL, 1.6 mmol), DME (8 mL) and aqueous 2.0 M Na2CO3 solution (2.3 mL, 4.6 mmol). The resulting mixture was sparged with Argon and Pd(PPh3)4 was added. The reaction vials were sealed and irradiated at 120° C. for 20 minutes in a microwave reactor. LCMS indicated near complete conversion. Additional 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.2 M in dioxane, 8 mL, 1.6 mmol) was added and the reaction was irradiated at 120° C. for 7 minutes. The reactions were allowed to cool to room temperature which partitioned upon standing. The layers were separated and the organic portions of the two reactions were combined and concentrated. The resulting residue was partitioned between EtOAc (200 mL) and water (20 mL). The layers were separated and the organic portion was washed with aqueous 0.1 N HCl solution (40 mL), brine, dried (Na2SO4), and concentrated to give 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile as a crude residue which was carried forward without further purification: LCMS(m/z) 528.2 (MH+), tR=0.90 minute.

reactant | 3-(4-(4-bromo-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | 0.43 mmol, ˜200 mg | BrC=1N=C(N(C1C1=NC(=NC=C1)NCCC#N)COCC[Si](C)(C)C)C1CC1 | C19H27BrN6OSi
reactant | 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.6 mmol, 0.2 M, 8 mL | ClC=1C=C(C(=C(N)C1)F)B1OC(C(O1)(C)C)(C)C | C12H16BClFNO2
reactant | Na2CO3 | 4.6 mmol, 2.0 M, 2.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.6 mmol, 0.2 M, 8 mL | ClC=1C=C(C(=C(N)C1)F)B1OC(C(O1)(C)C)(C)C | C12H16BClFNO2
solvent | DME | 8 mL | COCCOC | C4H10O2
product | 3-(4-(4-(3-amino-5-chloro-2-fluorophenyl)-2-cyclopropyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-5-yl)pyrimidin-2-ylamino)propanenitrile | NC=1C(=C(C=C(C1)Cl)C=1N=C(N(C1C1=NC(=NC=C1)NCCC#N)COCC[Si](C)(C)C)C1CC1)F | C25H31ClFN7OSi
